US07425551B2
c) (2,2,3,3,3-Pentafluoro-propyl)-carbamic acid (S)-1-[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester
Using carbonic acid (S)-1-[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester 4-nitro-phenyl ester and 2,2,3,3,3-pentafluoropropylamine, the title compound was prepared in the same manner as described for example 5c. White solid (49%). MS: m/e=530(M+H+).

reactant | carbonic acid (S)-1-[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(O[C@@H](C)C(N[C@H]1C2=C(C3=C(N(C1=O)CCOC)C=CC=C3)C=CC=C2)=O)=O | C27H25N3O8
reactant | 2,2,3,3,3-pentafluoropropylamine | FC(CN)(C(F)(F)F)F | C3H4F5N
product | (2,2,3,3,3-Pentafluoro-propyl)-carbamic acid (S)-1-[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester | COCCN1C2=C(C3=C([C@@H](C1=O)NC(=O)[C@H](C)OC(NCC(C(F)(F)F)(F)F)=O)C=CC=C3)C=CC=C2 | C24H24F5N3O5
